US08809371B2
A methanol (20 ml) solution containing 4-(3-methyl-5-nitropyridin-2-yl)morpholine (67 mg) was prepared and subjected to a hydrogenation reaction (room temperature; 1 bar; flow rate: 1 ml/min; 10% Pd/C) using H-cube™. Then, the solvent was distilled away under reduced pressure, and a purple solid of 5-methyl-6-morpholinopyridin-3-amine (52.4 mg) was thus obtained.

reactant | 4-(3-methyl-5-nitropyridin-2-yl)morpholine | 67 mg | CC=1C(=NC=C(C1)[N+](=O)[O-])N1CCOCC1 | C10H13N3O3
catalyst | Pd/C | [Pd] | Pd
solvent | methanol | 20 ml | CO | CH4O
product | 5-methyl-6-morpholinopyridin-3-amine | 52.4 mg | CC=1C=C(C=NC1N1CCOCC1)N | C10H15N3O
